US07192943B2
To a solution of 2-[(tert-butoxycarbonyl)amino]-1-{[(tert-butoxycarbonyl)amino]methyl}ethyl methanesulfonate (200 g) was added phthalimide potassium salt (101 g), and the mixture was stirred overnight at 75° C. To the reaction mixture was added water (6 L), and the mixture was extracted with ethyl acetate (6 L). The organic layer was washed with water (1.5 L×3) and brine, and dried over anhydrous magnesium sulfate. Concentration under reduced pressure gave a residue, which was triturated with hexane (500 ml). The collected crystals was washed with hexane (100 ml×3), and the mother liquor was recrystallized from hexane (300 ml) and combined with the former crystals to give di-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1,3-propanediyl]biscarbamate (168 g).

reactant | 2-[(tert-butoxycarbonyl)amino]-1-{[(tert-butoxycarbonyl)amino]methyl}ethyl methanesulfonate | 200 g | CS(=O)(=O)OC(CNC(=O)OC(C)(C)C)CNC(=O)OC(C)(C)C | C14H28N2O7S
reactant | phthalimide potassium salt | 101 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | water | 6 L | O | H2O
product | di-tert-butyl [2-(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)-1,3-propanediyl]biscarbamate | 168 g | O=C1N(C(C2=CC=CC=C12)=O)C(CNC(OC(C)(C)C)=O)CNC(OC(C)(C)C)=O | C21H29N3O6
